US09328106B2
Intermediate 149 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrazole
In a microwave reaction vial, 4-bromo-1-methyl-5-(trifluoromethyl)pyrazole (520 mg, 2.27 mmol, commercial), bis(pinacolato)diboron (1.3 equiv., 749 mg), bis(triphenylphosphine)palladium(II) dichloride (0.05 equiv., 79 mg) and POTASSIUM ACETATE (2 equiv., 4445 mg) were dissolved in toluene (15 mL). The mixture was heated in a microwave reactor to 150° C. for 10 min. After cooling to rt, the mixture was filtered over celite (EtOAc rinse). The filtrate was concentrated to give the title compound of sufficient purity to be used directly.

reactant | 4-bromo-1-methyl-5-(trifluoromethyl)pyrazole | 2.27 mmol, 520 mg | BrC=1C=NN(C1C(F)(F)F)C | C5H4BrF3N2
reactant | bis(pinacolato)diboron | 749 mg, 1.3 equiv. | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | POTASSIUM ACETATE | 4445 mg, 2 equiv. | C(C)(=O)[O-].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 79 mg, 0.05 equiv. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)-1H-pyrazole | CN1N=CC(=C1C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C11H16BF3N2O2
